US07820662B2
trans-4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid
A THF solution (2 mL) of trans-4-[8-amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid methyl ester was charged with 10M NaOH (0.31 mL, 3.1 mmol); a minimal amount of methanol was added to homogenize the reaction mixture. The reaction stirred at rt for 2 h. The reaction mixture was concentrated to solids and acidified to pH 5 with 2M HCl. The aqueous layer was extracted with CHCl3 (5×) and combined organic layers were dried over Na2SO4, filtered, and concentrated to the desired compound as a orange solid; 1H NMR (CDCl3, 400 MHz) δ 1.62-1.73 (m, 2H), 1.92-2.02 (m, 2H), 2.15-2.27 (m, 4H), 2.44-2.60 (m, 1H), 2.99-3.08 (m, 1H), 3.72 (s, 3H), 5.25 (s, 2H), 6.91 (d, 1H, J=6.0 Hz), 7.29-7.33 (m, 1H), 7.51-7.59 (m, 3H), 7.81 (dd, 1H, J=2.0 Hz, 8.4 Hz), 8.00-8.05 (m, 2H), 8.21-8.23 (m, 2H), 8.32 (d, 1H, J=9.2 Hz), 8.41-8.42 (m, 1H); MS (ES+): m/z 464.0 [MH+]; HPLC: tR=2.3 min (Micromass Platform II, polar—5 min).

reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | trans-4-[8-amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C29H27N5O2
reactant | NaOH | 3.1 mmol, 10M, 0.31 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | trans-4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@@H]2CC[C@H](CC2)C(=O)O | C28H25N5O2
